US08017786B2
Into 0.17 mol β-(3,4-dihydroxylphenyl)pyruvic acid, 112 g zinc amalgam and 1808 mL of 1.4 mol·L−1 hydrochloric acid solution were added, and the reaction was performed under heating and refluxing for 8 h. After filtration, the filtrate was extracted using ethyl acetate repeatedly, dried using anhydrous Na2SO4. After removal of ethyl acetate, β-(3,4-dihydroxylphenyl)-α-hydroxylpropionic acid was obtained in a yield of 40.3%.

reactant | β-(3,4-dihydroxylphenyl)pyruvic acid | 0.17 mol | OC=1C=C(C=CC1O)CC(C(=O)O)=O | C9H8O5
solvent | hydrochloric acid | 1.4 mol·L−1, 1808 mL | Cl | ClH
product | β-(3,4-dihydroxylphenyl)-α-hydroxylpropionic acid | yield of 40.3% | OC=1C=C(C=CC1O)CC(C(=O)O)O | C9H10O5
